US08278383B2
Synthesis of 4-(4-Phenylphenoxy)-phthalonitrile
A 1 L round 3-necked round-bottomed flask was charged with 4-phenylphenol (45.7 g, 0.27 mole), 4-nitrophthalonitrile (50 g, 0.29 mole), potassium carbonate (51.9 g, 0.38 mole), and dimethylformide (470 mL). The resulting solution was heated under nitrogen with stirring to 90° C. for 1.5 hour (progress of reaction can be monitored by TLC). The dark brown reaction mixture was then poured into 2M aqueous HCl solution (300 mL) with stirring. The product precipitated out as a pale brown powder. The powder was collected by filtration and dried in a vacuum oven at 150° C. to give the desired product (71 g, 94% yield). 1H NMR (δ, D6-DMSO): 8.13 (d, 1H), 7.87 (d, 1H), 7.80 (d, 2H), 7.70 (d, 2H), 7.55-7.35 (m, 4H), 7.30 (d, 2H).

reactant | 4-phenylphenol | 0.27 mole, 45.7 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | 4-nitrophthalonitrile | 0.29 mole, 50 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | potassium carbonate | 0.38 mole, 51.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | HCl | 2M, 300 mL | Cl | ClH
product | 4-(4-Phenylphenoxy)-phthalonitrile | 71 g, 94% yield | C1(=CC=CC=C1)C1=CC=C(OC=2C=C(C(C#N)=CC2)C#N)C=C1 | C20H12N2O
